US06313137B1
Synthesis of 2,3-dimethyl-8-(2,6-dimethylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxamide
8-Amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxamide (0.6 g, 2.9 mmol), 2,6-dimethylbenzylchloride (0.45 g, 2.9 mmol), sodium carbonate (1.0 g, 9.4 mmol) and potassium iodide (0.2 g, 1.3 mmol) were added to acetone (25 ml) and refluxed for 19 h. Methylene chloride was added and inorganic salts were filtered off. The solution was washed with a bicarbonate solution, the organic layer was separated, dried and the solvents were evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using methylene chloride:methanol (100:5) as eluent and the product was washed with diethyl ether to give 0.78 g (82%) of the title compound.

reactant | 8-Amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxamide | 2.9 mmol, 0.6 g | NC=1C=2N(C=C(C1)C(=O)N)C(=C(N2)C)C | C10H12N4O
reactant | 2,6-dimethylbenzylchloride | 2.9 mmol, 0.45 g | CC1=C(CCl)C(=CC=C1)C | C9H11Cl
reactant | sodium carbonate | 9.4 mmol, 1.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 1.3 mmol, 0.2 g | [I-].[K+]
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 2,3-dimethyl-8-(2,6-dimethylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxamide | 0.78 g, 82% | CC=1N=C2N(C=C(C=C2NCC2=C(C=CC=C2C)C)C(=O)N)C1C | C19H22N4O
